US06737553B1
Hydroformylation of the Dodecene Mixture According to the Invention
450 g of a tridecanol fraction prepared in this manner are post-hydrogenated with 3.5 g of NaBH4.

reactant | tridecanol | 450 g | C(CCCCCCCCCCCC)O | C13H28O
reactant | NaBH4 | 3.5 g | [BH4-].[Na+]
product | Dodecene | C=CCCCCCCCCCC | C12H24
